US07176242B2
4-(1,3-Thiazol-2-yl)benzoic acid
To a stirred solution of methyl 4-(1,3-thiazol-2-yl)benzoate (560 mg, 2.6 mmol) in a mixture of 2:1:1 tetrahydrofuran/methanol/water (20 mL) is added lithium hydroxide (322 mg, 3 mmol). The reaction mixture is stirred at room temperature for 2 h. The solvent is removed under reduced pressure and the residue is partitioned between diethyl ether and water. The aqueous layer is acidified to pH 1 with 1 N hydrochloric acid and a precipitate is observed. The solid is collected by filtration to afford the title compound. 1H NMR (300 MHz, CD3OD) δ 8.14–8.05 (m, 4H), 7.95–7.93 (m, 1H), 7.71–7.69 (m, 1H).

reactant | methyl 4-(1,3-thiazol-2-yl)benzoate | 2.6 mmol, 560 mg | S1C(=NC=C1)C1=CC=C(C(=O)OC)C=C1 | C11H9NO2S
reactant | lithium hydroxide | 3 mmol, 322 mg | [OH-].[Li+]
solvent | tetrahydrofuran methanol water | 20 mL | O1CCCC1.CO.O
product | 4-(1,3-Thiazol-2-yl)benzoic acid | S1C(=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H7NO2S
